US04127608
To a solution of the dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate (5.17 g) in xylene (25 ml) at 10° was added sodium dihydrobis(2-methoxyethoxy) aluminate (20 ml of a 70% by weight solution in benzene) over 20 min with occasional cooling to keep the temperature at 10°. After 10 min the solution was heated to reflux for 1.5 hr, cooled to 10° and was poured cautiously into cold 20% by weight aqueous sulfuric acid (200 ml). The mixture was extracted with ether (3 × 100 ml) and the combined extracts were washed with aqueous sodium bicarbonate and brine and dried (Na2SO4) and concentrated on a rotary evaporator to give 4.29 g of crude 2,3,6-trimethyl-5-(3-hydroxy3,7,11,15-tetramethylhexadecanyl)-phenol as a light yellow oil. Chromatography on silica gel eluting with ether in petroleum ether gave 3.19 g of pure 2,3,6-trimethyl-5-(3-hydroxy-3,7,11,15-tetramethylhexadecanyl)-phenol.

reactant | dimethyl 2-hydroxy-4-methyl-6-(3-hydroxy-3,7,11,15-tetramethyl-hexadecanyl)-benzene-1,3-dicarboxylate | 5.17 g | OC1=C(C(=CC(=C1C(=O)OC)C)CCC(CCCC(CCCC(CCCC(C)C)C)C)(C)O)C(=O)OC | C31H52O6
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,3,6-trimethyl-5-(3-hydroxy3,7,11,15-tetramethylhexadecanyl)-phenol | 4.29 g | CC1=C(C(=C(C=C1C)CCC(CCCC(CCCC(CCCC(C)C)C)C)(C)O)C)O | C29H52O2
